US06686369B1
Methyl 2-(4,6-Dimethoxy-2-pyrimidinyloxy)-3,3-diphenylbutyrate
1.2 g (4.4 mmol) of methyl 2-hydroxy-3,3-diphenylbutyrate were dissolved in 10 ml of absolute DMF and, under nitrogen, 1.2 g (8.8 mmol) of K2CO3 and 0.97 g (4.4 mmol) of 2-methanesulfonyl-4,6-dimethoxypyrimidine were added. The mixture was stirred at room temperature for 16 hours. It was then evaporated, and the residue was taken up in water and extracted three times with ethyl acetate. The combined organic phases were dried over MgSO4 and concentrated. 1.8 g of crude product were obtained and were reacted further without purification.

reactant | methyl 2-hydroxy-3,3-diphenylbutyrate | 4.4 mmol, 1.2 g | OC(C(=O)OC)C(C)(C1=CC=CC=C1)C1=CC=CC=C1 | C17H18O3
reactant | K2CO3 | 8.8 mmol, 1.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-methanesulfonyl-4,6-dimethoxypyrimidine | 4.4 mmol, 0.97 g | CS(=O)(=O)C1=NC(=CC(=N1)OC)OC | C7H10N2O4S
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | Methyl 2-(4,6-Dimethoxy-2-pyrimidinyloxy)-3,3-diphenylbutyrate | 1.8 g | COC1=NC(=NC(=C1)OC)OC(C(=O)OC)C(C)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H24N2O5
